US07906511B2
2-(2-Aminopyrimidin-4-ylmethylthio)nicotinic Acid (Reference Compound No. 12-1)
2-Amino-4-methanesulfonyloxymethylpyrimidine (580 mg, 2.9 mmol, Reference Compound No. 8-1) was suspended in N,N-dimethylformamide (15 mL), and 2-mercaptonicotinic acid (400 mg, 2.6 mmol) and triethylamine (1.2 mL, 8.6 mmol) were added thereto under ice-cooling, and the mixture was stirred for 21 hours at room temperature. The reaction mixture was diluted with ethyl acetate (50 mL), and extracted with water (50 mL) and saturated aqueous sodium hydrogencarbonate solution (30 mL). 2M hydrochloric acid was added to the aqueous layer until bubbles were no longer formed, and the precipitated solid was filtered off. The solid was dried at 55° C. under reduced pressure, to give 470 mg of the title Reference Compound as a white solid (Yield: 70%).

reactant | 2-Amino-4-methanesulfonyloxymethylpyrimidine | NC1=NC=CC(=N1)COS(=O)(=O)C | C6H9N3O3S
reactant | 2-mercaptonicotinic acid | 2.6 mmol, 400 mg | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | triethylamine | 8.6 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-Aminopyrimidin-4-ylmethylthio)nicotinic Acid | Yield: 70% | NC1=NC=CC(=N1)CSC1=C(C(=O)O)C=CC=N1 | C11H10N4O2S
